US05576324
Chloroform (1.5 ml) was added to a mixture of 5-hydroxy-6-allyl-8-methylcarbostyril (50.6 mg) and m-chloroperbenzoic acid (61.5 mg). The obtained mixture was stirred at 50° C. for 17 hours. Excessive aqueous sodium sulfite solution was added thereto, and stirring was continued at room temperature for 30 minutes, followed by extracting with a solvent mixture of chloroform and methanol (4:1). The organic phase was dried over sodium sulfate, and condensed. The resultant residue was purified by thin layer chromatography (solvent=chloroform:methanol=10:1), obtaining 20.6 mg of 2-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (37.9%).

reactant | 5-hydroxy-6-allyl-8-methylcarbostyril | 50.6 mg | OC1=C2C=CC(NC2=C(C=C1CC=C)C)=O | C13H13NO2
reactant | m-chloroperbenzoic acid | 61.5 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | Chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 20.6 mg, 37.9% | OCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H13NO3
